US06660744B1
To a solution of di-tert-butyl dicarbonate (23.04 g, 0.106 mol) in anhydrous dichloromethane (150 mL) at 0° C., a solution of 2-aminobenzyl alcohol (10.0 g, 0.0812 mol) was added and the resulting mixture was stirred under an atmosphere of nitrogen at ambient temperature for 18 hours. The organic phase was washed with saturated solution of sodium bicarbonate in water (2×250 mL), dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:5) as mobile phase to yield tert-butyl N-[2-(hydroxymethyl)phenyl]carbamate (17.2 g, 0.077 mol) as a colorless oil.

reactant | di-tert-butyl dicarbonate | 0.106 mol, 23.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-aminobenzyl alcohol | 0.0812 mol, 10.0 g | NC1=C(CO)C=CC=C1 | C7H9NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-butyl N-[2-(hydroxymethyl)phenyl]carbamate | 0.077 mol, 17.2 g | OCC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C12H17NO3
